US09421514B2
(b) 3,3′-(Naphthalene-2,7-diyl)dibenzoic acid (H2L2)
2.0 g of dimethyl 3,3′-(naphthalene-2,7-diyl)dibenzoate was dissolved in 60 mL of mixed solvent of THF and MeOH (v/v=1:1), 20 mL of 2N NaOH aqueous solution was added. The mixture was stirred at room temperature overnight. After the organic phase was removed, the aqueous phase was acidified with dilute hydrochloric acid to give white precipitate, which was filtered and washed with water several times. Yield: 1.71 g, 92%. 1H NMR (300 MHz, DMSO-d6): δ 7.65 (t, 2H), 7.92 (d, 2H), 7.98 (d, 2H), 8.09 (m, 4H), 8.38 (m, 2H), 8.43 (d, 2H).

reactant | dimethyl 3,3′-(naphthalene-2,7-diyl)dibenzoate | 2.0 g | C1=C(C=CC2=CC=C(C=C12)C=1C=C(C(=O)OC)C=CC1)C=1C=C(C(=O)OC)C=CC1 | C26H20O4
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | NaOH | 2N, 20 mL | [OH-].[Na+]
product | 3,3′-(Naphthalene-2,7-diyl)dibenzoic acid | C1=C(C=CC2=CC=C(C=C12)C=1C=C(C(=O)O)C=CC1)C=1C=C(C(=O)O)C=CC1 | C24H16O4
